US05831131
Ultrasonic Batch Preparation of Trichloroacetyl Peroxide
Lithium Hydroxide as Base. A beaker was loaded with 1.25 g of lithium hydroxide monohydrate (30 mmoles), 28 ml of water, 90 ml of Freon® 113, 3.07 ml of 30% aqueous hydrogen peroxide, and finally 1.9 ml of trichloroacetyl chloride (17 mmoles) with ice bath cooling. An ultrasonic horn connected to a 40 Khz, 150 watt Dukane power source was immediately started up at 75% maximum power and lowered into the reaction mixture. After 15 seconds, the ultrasonic horn was turned off and the reaction mixture poured into a prechilled 250 ml Erlenmeyer flask sitting on dry ice. The reaction mixture was first allowed to freeze solid and then warmed with swirling. As soon as the Freon® 113 phase had thawed entirely to 88 ml of fluid, a 5.0 ml sample was drawn and found to take 6.2 ml of 0.1N sodium thiosulfate in iodometric titration (yield 64% based on starting trichloroacetyl chloride).

reactant | Lithium Hydroxide | [OH-].[Li+]
reactant | lithium hydroxide monohydrate | 30 mmoles, 1.25 g | O.[OH-].[Li+]
reactant | hydrogen peroxide | 3.07 ml | OO | H2O2
reactant | trichloroacetyl chloride | 17 mmoles, 1.9 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium thiosulfate | 0.1N, 6.2 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 28 ml | O | H2O
product | Trichloroacetyl Peroxide | yield 64% | ClC(C(=O)OOC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O4
